US04847381
6,8-Dichloro-3-hydroxy-2-[1,1'-biphenyl]-4-yl-4-quinolinecarboxylic acid
A suspension of 21 g of 5,7-dichloro-2,3-indolinedione in 120 ml of water was treated with a sufficient amount of a solution of 16.6 g of sodium hydroxide in 55 ml of water to provide solution. A warm solution of 25.4 g of acetoxyacetylbiphenyl in 350 ml of ethanol was added, followed by the balance of the alkali solution. The mixture was refluxed for 2.5 hours. During the last 1/2 hour 50 ml of ethanol was distilled off. A 300 ml portion of water was added, the mixture was stirred, cooled and filtered through diatomaceous earth. The solid was taken up in 1500 ml of water containing 100 ml of 10N sodium hydroxide, filtered and the filtrate treated with 32 ml of concentrated hydrochloric acid and 10 ml of glacial acetic acid. The resulting solid was dissolved in 400 ml of hot cellosolve, filtered and precipitated with water, giving 18.5 g of the desired product, mp 215°-217° C.

reactant | 5,7-dichloro-2,3-indolinedione | 21 g | ClC=1C=C2C(C(NC2=C(C1)Cl)=O)=O | C8H3Cl2NO2
reactant | sodium hydroxide | 16.6 g | [OH-].[Na+]
reactant | acetoxyacetylbiphenyl | 25.4 g | C(C)(=O)OCC(=O)C1=C(C=CC=C1)C1=CC=CC=C1 | C16H14O3
reactant | ethanol | 350 ml | C(C)O | C2H6O
solvent | water | 120 ml | O | H2O
solvent | water | 55 ml | O | H2O
product | 6,8-Dichloro-3-hydroxy-2-[1,1'-biphenyl]-4-yl-4-quinolinecarboxylic acid | 18.5 g | ClC=1C=C2C(=C(C(=NC2=C(C1)Cl)C1=CC=C(C=C1)C1=CC=CC=C1)O)C(=O)O | C22H13Cl2NO3
